US05807859
The process is performed as in Example 92 but starting with 0.45 g of 5-thiazolecarboxaldehyde, 0.45 g of 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 0.2 g of ammonium acetate and 4 ml of acetic anhydride. 0.35 g of 10-(5-thiazolylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is obtained in the form of a dark red solid melting above 260° C. (Analysis, % calculated C: 64.14, H: 3.17, N: 17.60, O: 5.03, S: 10.07, % found C: 64.2, N: 17.2, S: 9.7).

reactant | 5-thiazolecarboxaldehyde | 0.45 g | S1C=NC=C1C=O | C4H3NOS
reactant | 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.45 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C13H9N3O
reactant | ammonium acetate | 0.2 g | C(C)(=O)[O-].[NH4+]
reactant | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 10-(5-thiazolylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.35 g | S1C=NC=C1C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C17H10N4OS
